US05807866
(d) 7-Chloro-2-ethenylquinoline
A stirred solution of diisopropylamine (2.24 ml, 15.97 mmol) in tetrahydrofuran (15.0 ml) at -10° C. under nitrogen was treated dropwise with a 2.5M solution of n-butyllithium in hexane (6.4 ml, 15.97 mmol). After stirring below 0° C. for 30 min the pale yellow solution was cooled to -20° C. and a solution of diethyl 7-chloro-2-quinolylmethylphosphonate (5.0 g, 15.97 mmol) in tetrahydrofuran was added dropwise. The resulting dark green solution was stirred below 0° C. for 1 h, cooled to -10° C. and treated with paraformaldehyde (0.53 g, 17.57 mmol) in portions. Stirred cold for 15 min after which the cooling bath was removed and the mixture was stirred at 25° C. for 90 min. Quenched with brine (300 ml), extracted into ethyl acetate (3×100 ml), the combined organic extracts were washed with brine (3×200 ml), dried (Na2 SO4) and the solvent was removed in vacuo to give a dark brown solid. Column chromatography (ethyl acetate--light petroleum (b.p. 40°-60° C.), 1:19) provided the title compound (1.80 g, 59%) as pale yellow crystals. Crystallised from ethyl acetate and light petroleum (b.p. 40°-60° C.) as cream crystals, m.p. 79.7°-80° C. (Found: C, 69.84; H, 4.15; N; 7.25; Cl, 18.91. C11H8ClN requires C, 69.67; H, 4.25; N, 7.39; Cl, 18.69%); νmax (nujol) /cm-1 1628, 160; δH (270 MHz) 5.67 (1H, dd, 2'-H, 3J2',1' =10.89, 2J2',2" =1.0 Hz); 6.29 (1H, dd, 2"-H, 3J2",1' =17.7, 2J2",2' =0.8 Hz); 7.02 (1H, dd, 1'-H, 3J1',2" =17.5, 3J1',2' =10.9 Hz); 7.42 (1H, dd, 7-H, Jo =8.8, Jm =2.1 Hz); 7.53 (1H, d, 3-H, Jo 8.9 Hz); 7.66 (1H, d, 5-H, Jo =8.9 Hz); 8.03 (1H, d, 4-H, Jo =8.3 Hz); 8.05 (1H, s, 8-H). δC (67.8 MHz) 118.6 (2'-C); 120.5 (3-C); 125.7 (4a-C); 135.3 (7-C); 136.0 (4-C); 137.5 (1'-C); 148.3 (8a-C); 156.9 (2-C). Remaining signals fall in the range 127.1-128.5 ppm; m/z 191.0, 189.0 (33.48, 100, M+), 165.0, 163.0 (21.89, 65.87), 154.0 (5.13), 128.1 (9.14).

reactant | diisopropylamine | 15.97 mmol, 2.24 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 15.97 mmol, 6.4 ml | CCCCCC | C6H14
reactant | diethyl 7-chloro-2-quinolylmethylphosphonate | 15.97 mmol, 5.0 g | ClC1=CC=C2C=CC(=NC2=C1)CP(OCC)(OCC)=O | C14H17ClNO3P
reactant | paraformaldehyde | 17.57 mmol, 0.53 g | C=O | CH2O
solvent | tetrahydrofuran | 15.0 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-2-ethenylquinoline | 1.80 g, 59% | ClC1=CC=C2C=CC(=NC2=C1)C=C | C11H8ClN
